US08252781B2
Process 5: Preparation of 1-(2-chlorobenzyl)-2-cycloheptyl-4,4-dimethyl-1,2-diazetidin-3-one
2-Cycloheptyl-4,4-dimethyl-1,2-diazetidin-3-one and 2-chlorobenzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a colorless oil.

reactant | 2-Cycloheptyl-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCCC1)N1NC(C1=O)(C)C | C11H20N2O
reactant | 2-chlorobenzyl bromide | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | 1-(2-chlorobenzyl)-2-cycloheptyl-4,4-dimethyl-1,2-diazetidin-3-one | ClC1=C(CN2N(C(C2(C)C)=O)C2CCCCCC2)C=CC=C1 | C18H25ClN2O
